US07402680B2
1-(4-Methoxy-benzyl)-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (0.19 g) was prepared from 1.51 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 1.0 mL of 4-methoxybenzylamine, and 1.13 g of (2-nitro-vinyl)-benzene, using EtOH as the solvent and omitting SiO2. MS (ESI): exact mass calculated for C21H22N2O, 318.17; found, m/z 319.2 [M+H]+.

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 1.51 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 4-methoxybenzylamine | 1.0 mL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | (2-nitro-vinyl)-benzene | 1.13 g | [N+](=O)([O-])C=CC1=CC=CC=C1 | C8H7NO2
solvent | EtOH | CCO | C2H6O
product | 1-(4-Methoxy-benzyl)-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 0.19 g | COC1=CC=C(CN2C=C(C=3CNCCC32)C3=CC=CC=C3)C=C1 | C21H22N2O
